// softmax4_digital_toy.scs - Toy digital softmax baseline (behavioral)
// NOTE: Development-only. Output is behavioral; power is modeled by idigital.

simulator lang=spectre

parameters vdd_val=1.8 in0=0 in1=0 in2=0 in3=0 kexp=1.0 eps=1e-12 idigital=1m

// Toy MOS models (unused by behavioral sources, kept for consistency)
model nch mos1 type=n vto=0.0 kp=120u
model pch mos1 type=p vto=0.0 kp=40u

V_VDD (vdd 0) vsource dc=vdd_val

// Input voltages (logits)
V_IN0 (vin0 0) vsource dc=in0
V_IN1 (vin1 0) vsource dc=in1
V_IN2 (vin2 0) vsource dc=in2
V_IN3 (vin3 0) vsource dc=in3

// Idealized digital power draw (placeholder)
I_DIG (vdd 0) isource dc=idigital

// Behavioral outputs (ideal softmax)
BOUT0 (out0 0) bsource v=exp(kexp*V(vin0))/(exp(kexp*V(vin0))+exp(kexp*V(vin1))+exp(kexp*V(vin2))+exp(kexp*V(vin3))+eps)
BOUT1 (out1 0) bsource v=exp(kexp*V(vin1))/(exp(kexp*V(vin0))+exp(kexp*V(vin1))+exp(kexp*V(vin2))+exp(kexp*V(vin3))+eps)
BOUT2 (out2 0) bsource v=exp(kexp*V(vin2))/(exp(kexp*V(vin0))+exp(kexp*V(vin1))+exp(kexp*V(vin2))+exp(kexp*V(vin3))+eps)
BOUT3 (out3 0) bsource v=exp(kexp*V(vin3))/(exp(kexp*V(vin0))+exp(kexp*V(vin1))+exp(kexp*V(vin2))+exp(kexp*V(vin3))+eps)

C_OUT0 (out0 0) capacitor c=1p
C_OUT1 (out1 0) capacitor c=1p
C_OUT2 (out2 0) capacitor c=1p
C_OUT3 (out3 0) capacitor c=1p

tran_test tran stop=50n
save vin0 vin1 vin2 vin3 out0 out1 out2 out3 vdd V_VDD:p
